US04113940
To a suspension of 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (0.764 g) in dried dichloromethane (8 ml) were added at -30° C. a solution of triethylamine (0.18 g) in dichloromethane (2 ml) and then a solution of dimethylaniline (0.27 g) in dichloromethane (2 ml). While, allylthioacetic acid (0.528 g) was added to thionyl chloride (5 ml) and the mixture was allowed to stand for 20 minutes at room temperature and 5 minutes at 50° C., after which thionyl chloride was removed under reduced pressure, and the residue was added a small amount of benzene, and then removed under reduced pressure to give allylthioacetyl chloride (0.527 g). A solution of thus obtained allylthioacetyl chloride (0.452 g) in dichloromethane (3 ml) was dropwise added to -30° C. over 5 minutes to the above-mentioned solution of 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate, and the mixture was stirred for 1 hour at -20° C. After the reaction, the reaction mixture was in turn washed twice with 5% hydrochloric acid, once with water, twice with a saturated sodium bicarbonate aqueous solution and once with a saturated sodium chloride aqueous solution, and dried over magnesium sulfate. After the solvent was distilled off, the residue (0.82 g) was recrystallized from a mixture of ether and isopropyl ether to give 2,2,2-trichloroethyl 2-methyl-7-(2-allylthioacetamido)-3-cephem-4-carboxylate (0.71 g), mp 96° C.

reactant | allylthioacetyl chloride | 0.452 g | C(C=C)CC(=S)Cl | C5H7ClS
reactant | 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O | C10H11Cl3N2O3S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2,2,2-trichloroethyl 2-methyl-7-(2-allylthioacetamido)-3-cephem-4-carboxylate | 0.71 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CCC=C)=S)=O | C15H17Cl3N2O3S2
